US04954659
Preparation of Methyl 3-(3,4-dimethoxyphenyl)propionate
Acetyl chloride (20 cc) was added dropwise over 10 minutes with stirring to methanol (400 cc); the resulting solution was added all at once to a magnetically stirred suspension of 3-(3,4-dimethoxyphenyl)propionic acid (500 g, 2.378 moles) in methanol (1.6 1) and 2,3-dimethoxypropane (250 cc). The reaction mixture was stirred overnight at room temperature and then at reflux for 1 hour. After cooling, the solution was evaporated in vacuo to a light yellow syrup; yield: 533 g (100%).

reactant | Acetyl chloride | 20 cc | C(C)(=O)Cl | C2H3ClO
reactant | 3-(3,4-dimethoxyphenyl)propionic acid | 2.378 moles, 500 g | COC=1C=C(C=CC1OC)CCC(=O)O | C11H14O4
solvent | methanol | CO | CH4O
solvent | 2,3-dimethoxypropane | 250 cc | COC(C)COC | C5H12O2
solvent | methanol | 400 cc | CO | CH4O
product | Methyl 3-(3,4-dimethoxyphenyl)propionate | COC=1C=C(C=CC1OC)CCC(=O)OC | C12H16O4
